US04675324
A solution of 6-nitro-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline (6.076 g) in methanol (60 ml) was hydrogenated over 5% palladium on carbon (0.5 g) under atmospheric pressure at ambient temperature. After the theoretical amount of hydrogen gas was absorbed, the catalyst was filtered off and the filtrate was evaporated in vacuo. The residual solid was washed with diethyl ether and dried to give 6-amino-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline (4.815 g).

reactant | 6-nitro-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline | 6.076 g | [N+](=O)([O-])C=1C=C2C(CCN(C2=CC1)C(CC)=O)=O | C12H12N2O4
solvent | methanol | 60 ml | CO | CH4O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 6-amino-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline | 4.815 g | NC=1C=C2C(CCN(C2=CC1)C(CC)=O)=O | C12H14N2O2
